US05663440
In a 1-liter three-necked flask having a fit equipped with a stirring device and a nitrogen substituting device, 40.9 g of 1,3-bis(4-(4-nitrobenzyl)phenyl)-2-n-hexyl propane, 5 g of a Pd-C catalyst (a 5% product, containing 55.9% of water) and 300 milliliters of tetrahydrofuran were introduced, and contacted with hydrogen gas at a normal pressure with stirring. After hydrogen absorption was stopped, the catalyst was filtered off and the solution was concentrated. Residues were dissolved in chloroform, and then subjected to a separating operation by a column chromatography with silica gel. By removing off the solvent again, 35.3 g of 1,3-bis(4-(4-aminobenzyl)phenyl)-2-n-hexyl propane was obtained as yellow oil.

reactant | 1,3-bis(4-(4-nitrobenzyl)phenyl)-2-n-hexyl propane | 40.9 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C=C2)CC(CC2=CC=C(C=C2)CC2=CC=C(C=C2)[N+](=O)[O-])CCCCCC)C=C1 | C35H38N2O4
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 5 g | [Pd] | Pd
solvent | tetrahydrofuran | 300 milliliters | O1CCCC1 | C4H8O
product | 1,3-bis(4-(4-aminobenzyl)phenyl)-2-n-hexyl propane | 35.3 g | NC1=CC=C(CC2=CC=C(C=C2)CC(CC2=CC=C(C=C2)CC2=CC=C(C=C2)N)CCCCCC)C=C1 | C35H42N2
